US07105671B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester (190 mg, 0.53 mmol) in ethanol (10 mL) was treated with a solution of potassium hydroxide (174 mg, 2.64 mmol) in water (4 mL). The reaction was stirred at 25° C. for 2.5 h. The reaction was then concentrated in vacuo to remove the ethanol and then acidified to pH=2 with a 1N aqueous hydrochloric acid solution. The resulting solution was then extracted with methylene chloride (3×10 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid (167 mg, 92%) as a white foam: (ES)+-HRMS m/e calcd for C15H19ClO5S (M+Na)+ 369.0534, found 369.0536.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid methyl ester | 0.53 mmol, 190 mg | COC(C(CC1CCOCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO5S
reactant | potassium hydroxide | 2.64 mmol, 174 mg | [OH-].[K+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 4 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-pyran-4-yl)-propionic acid | 167 mg, 92% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CCOCC1 | C15H19ClO5S
